US06777426B2
4-[1-(4,5-Dihydro-1H-imidazol-4-yl)-ethyl]quinoline.
To 3-Quinolin-4-yl-butane-1,2-diamine (1.54 g, 7.16 mmol) in 5 ml of dichloromethane, formidic acid ethyl ester hydrochloride (1.57 g, 14.3 mmol) was added. The reaction mixture was stirred overnight at room temperature. Aqueous ammonia (2 ml) was added to the reaction mixture and was partitioned between EtOAc (2×5 ml) and water. The organic layer was dried, filtered and concentrated to give 1.16 g (73%) of the product as a syrup which was used for the subsequent step.

reactant | 3-Quinolin-4-yl-butane-1,2-diamine | 7.16 mmol, 1.54 g | N1=CC=C(C2=CC=CC=C12)C(C(CN)N)C | C13H17N3
reactant | ammonia | 2 ml | N | H3N
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-[1-(4,5-Dihydro-1H-imidazol-4-yl)-ethyl]quinoline | 1.16 g, 73% | N1C=NC(C1)C(C)C1=CC=NC2=CC=CC=C12 | C14H15N3
